US06455525B1
To a cold solution (0° C.) of 6-methyl-4-iodo-indole-3-carboxaldehyde (265 mg, 0.92 mmol) in dry DMF (2 mL) was added NaH (60% dispersion in mineral oil, 50 mg, 1.25 mmol). The resulting mixture was stirred at 0° C. for 20 min. Iodomethane (0.5 mL, excess) was added to the reaction mixture in a drop wise fashion. The cooling bath was removed and the resulting mixture was stirred at room temperature for 1.5 h. The mixture was quenched with water and was extracted repeatedly from EtOAc. Combined organic was washed with water (twice) and brine. After drying over magnesium sulfate, solvent was removed. The product, 1,6-dimethyl-4-iodo-indole-3-carboxaldehyde was obtained as a solid was which was suspended in hexane, stirred for few minutes and was filtered. The product was further washed with more hexane and was dried to yield 213 mg (77%) of the desired product. MS: 300 (M+H), 322 (M+Na).

reactant | 6-methyl-4-iodo-indole-3-carboxaldehyde | 0.92 mmol, 265 mg | CC1=CC(=C2C(=CNC2=C1)C=O)I | C10H8INO
reactant | NaH | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | Iodomethane | 0.5 mL | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1,6-dimethyl-4-iodo-indole-3-carboxaldehyde | CN1C=C(C2=C(C=C(C=C12)C)I)C=O | C11H10INO
